US20010016635A1
A 500 mL round bottomed flask was charged with hexane (200 mL, Aldrich) and bromo-2,4-dimethoxybenzene (12.2 g, 56.0 mmol, Aldrich). The contents were cooled to 0° C. and n-butyl lithium (34.7 mL of a 1.6M solution in hexanes, 55.5 mmol, Aldrich) was added over 15 minutes (white precipitate). The contents were stirred at room temperature for ninety (90) minutes. The solution was added, via cannula, into a 1000 mL round bottomed flask containing hexane (300 mL, Aldrich) and propyl-trimethoxysilane (9.8 mL, 56 mmol). The reaction was stirred at room temperature overnight (18 hours). Ethanol (10 mL, Aldrich) was added to quench residual base. The contents were poured into 0.2N HCl (250 mL). The layers were separated and the product extracted into ether (2×150 mL). The combined organic portions were dried (MgSO4), filtered, and the solvent removed via rotary evaporation (16.2 g crude). Distillation under reduced pressure (b.p. 115° C., 0.04 mm Hg) provided 2,4-dimethoxyphenyl-propyl-dimethoxysilane (9.13 g, 33.8 mmol, 61% yield); C13H22O4Si (Mw=270.40); 1H NMR (CDCl3) δ 7.5 (d, 1H), 6.5 (m, 1H), 6.4 (d, 1H), 3.8 (s, 3H), 3.8 (s, 3H), 3.5 (s, 6H), 1.4 (m, 2H), 0.9 (t, 3H), 0.8 (t, 2H); 13C NMR (CDCl3) δ 165.8, 163.2, 137.6, 112.7, 104.6, 97.5, 55.0, 54.9, 50.4, 17.7, 16.2, 15.4; IR (capillary film) ν 2950, 2836, 1596, 1571, 1460, 1299, 1206, 1154, 1089, 1036; MS m/z (relative abundance) 270 (11.1), 227 (45.6), 197 (100), 167 (24.4), 137 (10.9), 121 (22.6), 91 (9.9), 59 (18.4).

reactant | hexane | 200 mL | CCCCCC | C6H14
reactant | bromo-2,4-dimethoxybenzene | 56.0 mmol, 12.2 g | BrC1=C(C=C(C=C1)OC)OC | C8H9BrO2
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 300 mL | CCCCCC | C6H14
reactant | propyl-trimethoxysilane | 56 mmol, 9.8 mL | C(CC)[Si](OC)(OC)OC | C6H16O3Si
solvent | Ethanol | 10 mL | C(C)O | C2H6O
product | 2,4-dimethoxyphenyl-propyl-dimethoxysilane | 33.8 mmol, 9.13 g, 61% yield | COC1=C(C=CC(=C1)OC)[Si](OC)(OC)CCC | C13H22O4Si
